US04456716
N-Dodecyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinimide
The procedure of Example 1 is repeated using 13.27 grams N-dodecylmaleimide, 11.92 grams 2,6-di-tert-butyl-4-mercaptophenol, and 0.5 grams triethylamine. The sample is purified by dry column chromatography to give 10.0 grams of a clear syrup.

reactant | N-dodecylmaleimide | 13.27 grams | C(CCCCCCCCCCC)N1C(C=CC1=O)=O | C16H27NO2
reactant | 2,6-di-tert-butyl-4-mercaptophenol | 11.92 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
solvent | triethylamine | 0.5 grams | C(C)N(CC)CC | C6H15N
product | N-Dodecyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinimide | 10.0 grams | C(CCCCCCCCCCC)N1C(C(CC1=O)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C30H49NO3S
